US04732985
Piperidine (1.0 g) was added dropwise over 5 minutes to a stirred, ice-cooled solution of ethyl 4-{(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy }acetoacetate (26.0 g) (see Preparation 5) and 2,3-dichlorobenzaldehyde (17.5 g) in 2-propanol (200 ml) and the mixture was stirred with ice-cooling for 2 hours and at room temperature for 14 hours. The mixture was evaporated and the residue twice taken up in toluene and evaporated. The residue was purified by chromatography on silica (150 g) using toluene plus 0-40% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated to give essentially pure ethyl -(2,3-dichlorobenzylidene)-4-{(2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}acetoacetate (17.3 g) as an oil. A solution of this oil in 2-propanol (150 ml) was treated with methyl 3-amino-crotonate (5.0 g) and the mixture stirred at room temperature for 24 hours. The mixture was evaporated and the residue twice taken up in toluene and evaporated. The residue was purified by chromatography on SiO2 (110 g) using toluene plus 0-10% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated to give the title compound (2.75 g), m.p. 135°-137° C.

reactant | Piperidine | 1.0 g | N1CCCCC1 | C5H11N
reactant | ethyl 4-{(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy }acetoacetate | 26.0 g | CC1(OCC(O1)COCC(CC(=O)OCC)=O)C | C12H20O6
reactant | 2,3-dichlorobenzaldehyde | 17.5 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | ethyl -(2,3-dichlorobenzylidene)-4-{(2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}acetoacetate | 17.3 g | C(C)OC(CC(=O)C(OCC1OC(OC1)(C)C)=CC1=C(C(=CC=C1)Cl)Cl)=O | C19H22Cl2O6
